US07875645B2
2-(2,6-Dichloro-benzyl)-4,5-dihydro-1H-imidazole was prepared from 1,3-dichloro-2-(2,2-dibromo-vinyl)-benzene and ethylene diamine in analogy to Example 1e): white crystals; MS (ISP): 233.1 (11%), 231.1 (63%) & 229.2 100%) (each [M+H]+).

reactant | 1,3-dichloro-2-(2,2-dibromo-vinyl)-benzene | ClC1=C(C(=CC=C1)Cl)C=C(Br)Br | C8H4Br2Cl2
reactant | ethylene diamine | C(CN)N | C2H8N2
product | 2-(2,6-Dichloro-benzyl)-4,5-dihydro-1H-imidazole | ClC1=C(CC=2NCCN2)C(=CC=C1)Cl | C10H10Cl2N2
